US09212155B2
To a chilled (0° C.) solution of lithium bis(trimethylsilyl)amide (1.0 M, 50 mL) was dropwise added a solution of trimethylphosphonoacetate, keeping the temperature below 10° C. The solution was then allowed to warm to room temperature and stirred for an additional ten minutes after which a solution of 2-acetyl-6-methoxynaphthalene in THF (20 mL) was added in one portion. The solution was slowly heated to 50° C. for fourteen hours. The solution was cooled to room temperature then diluted with a 10% NH4Cl solution (100 mL), and extracted with ethyl acetate (2×100 mL). The organic layers were combined and dried over MgSO4, filtered, and filtrate concentrated to a white solid which was recrystallized from hexane/ethyl acetate to give 5.88 grams of 3-(6-methoxynaphthalen-2-yl)but-2-enoic acid methyl ester intermediate (92% yield).

reactant | lithium bis(trimethylsilyl)amide | 1.0 M, 50 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | trimethylphosphonoacetate | CC(C)(C(=O)[O-])P(=O)(O)OC
reactant | 2-acetyl-6-methoxynaphthalene | C(C)(=O)C1=CC2=CC=C(C=C2C=C1)OC | C13H12O2
reactant | THF | 20 mL | C1CCOC1 | C4H8O
solvent | NH4Cl | 100 mL | [NH4+].[Cl-]
product | 3-(6-methoxynaphthalen-2-yl)but-2-enoic acid methyl ester | 5.88 grams, 92% yield | COC(C=C(C)C1=CC2=CC=C(C=C2C=C1)OC)=O | C16H16O3
